US04082843
3-(3-Hydroxybenzoyl)propionic acid was added in portions to well stirred fuming nitric acid at -15° C. The resultant mixture was stirred a further 10 minutes in the cold then poured into ice-water. The crude product was triturated with methanol to give 3-(3-hydroxy-4-nitrobenzoyl)propionic acid, which after recrystallisation from water had m.p. 158° - 160.3° C (Found: C, 50.25; H, 3.75; N, 5.88; M+, 239 C10H9NO6 requires: C, 50.21; H, 3.79; N, 5.86%; M, 239)

reactant | 3-(3-Hydroxybenzoyl)propionic acid | OC=1C=C(C(=O)CCC(=O)O)C=CC1 | C10H10O4
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 3-(3-hydroxy-4-nitrobenzoyl)propionic acid | OC=1C=C(C(=O)CCC(=O)O)C=CC1[N+](=O)[O-] | C10H9NO6
